US07465731B2
EDCI (0.32 g) was added to the solution of (2Z)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-3-pyridinyl)-2-fluoroacrylic acid (0.68 g), O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (0.24 g), and HOBT (0.28 g) in DMF (13.6 ml) and the mixture was stirred at ambient temperature for 20 hr. The reaction mixture was poured into a mixture of AcOEt and aq NaHCO3. The separated organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallization with solution of iPE and hexane to give (2Z)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-3-pyridinyl)-2-fluoro-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (0.57 g).

reactant | EDCI | 0.32 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | (2Z)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-3-pyridinyl)-2-fluoroacrylic acid | 0.68 g | ClC=1C=C(C=NC1N[C@H]1CN(CCC1)CC1CCCCC1)\C=C(\C(=O)O)/F | C20H27ClFN3O2
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 0.24 g | O1C(CCCC1)ON | C5H11NO2
reactant | HOBT | 0.28 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 13.6 ml | CN(C)C=O | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | (2Z)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-3-pyridinyl)-2-fluoro-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 0.57 g | ClC=1C=C(C=NC1N[C@H]1CN(CCC1)CC1CCCCC1)\C=C(\C(=O)NOC1OCCCC1)/F | C25H36ClFN4O3
